US09382189B2
Cross Metathesis of Methyl Decenoate+Neohexene
10 g of methyl 9-decenoate (54 mmol) purified on alumina, 18.1 g of 3,3-dimethyl-1-butene (neohexene, 215 mmol, 4 equivalents) and 100 g of toluene are placed in a 250 ml 10 glass reactor purged with nitrogen. The mixture is heated at 40° C., followed by addition, over a period of 2 hours, of 3.4 mg of catalyst M73-SiPr supplied by the company Umicore (75 ppm mol) dissolved in 5 ml of toluene. At the end of the addition, the degree of conversion of the methyl decenoate, measured by CPG, is 86%. The selectivity toward cross metathesis product is 35%.

reactant | methyl 9-decenoate | 54 mmol, 10 g | C(CCCCCCCC=C)(=O)OC | C11H20O2
reactant | 3,3-dimethyl-1-butene | 215 mmol, 18.1 g, 4 equivalents | CC(C=C)(C)C | C6H12
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | Methyl Decenoate Neohexene | C(C=CCCCCCCC)(=O)OC.C=CC(C)(C)C | InChI=1S/C11H20O2.C6H12/c1-3-4-5-6-7-8-9-10-11(12)13-2;1-5-6(2,3)4/h9-10H,3-8H2,1-2H3;5H,1H2,2-4H3
